US07238716B2
To a mixture of 4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]benzaldehyde (37.8 g), tetrahydrofuran (140 ml) and methanol (60 mL) was added sodium borohydride (2.53 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into iced water, and the precipitated solid was collected by filtration, and dried with air to give crystals (34.6 g, 91%) of [4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]phenyl]methanol. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 91-92° C.

reactant | 4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]benzaldehyde | 37.8 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=O)C=C1)C | C16H13NO4
reactant | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
reactant | methanol | 60 mL | CO | CH4O
reactant | sodium borohydride | 2.53 g | [BH4-].[Na+]
solvent | water | O | H2O
product | [4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]phenyl]methanol | 34.6 g, 91% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=C1)CO)C | C16H15NO4
